US06849650B2
Synthesis of N-(3,4-dichlorophenyl)alanine
Using the procedure set forth in U.S. Pat. No. 3,598,859, the disclosure of which is incorporated herein by reference in its entirety. N-(3,4-dichlorophenyl)alanine was prepared. Specifically, to a solution of 3,4-dichloroaniline (1 equivalent) (Aldrich) in isopropanol (about 500 mL per mole of 3,4-dichloroaniline) is added water (about 0.06 mL per mL of isopropanol) and 2-chloropropionic acid (2 equivalents) (Aldrich). This mixture is warmed to 40° C. and sodium bicarbonate (0.25 equivalents) is added in successive portions before heating under reflux for 4-5 days. After cooling, the reaction mixture is poured into water and the unreacted 3,4-dichloroaniline is removed by filtration. The filtrate is acidified to pH 3-4 with concentrated hydrochloric acid and the resultant precipitate is filtered, washed and dried to yield the title compound, m.p.=148-149° C.

reactant | 3,4-dichloroaniline | 1 equivalent | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | water | O | H2O
reactant | 2-chloropropionic acid | 2 equivalents | ClC(C(=O)O)C | C3H5ClO2
reactant | sodium bicarbonate | 0.25 equivalents | C([O-])(O)=O.[Na+]
solvent | isopropanol | C(C)(C)O | C3H8O
product | N-(3,4-dichlorophenyl)alanine | ClC=1C=C(C=CC1Cl)N[C@@H](C)C(=O)O | C9H9Cl2NO2
